US05783572
4-[3-(4-Morpholinyl)propyl]pyrazole dihydrochloride (268 mg, 1 mmol) was added to a stirred suspension of sodium hydride (120 mg, 80% oil dispersion, 4 mmol) at 0° C. under nitrogen. After 30 minutes, the mixture was cooled to -40° C. and 5-bromomethyl-6,7-dichloro-2,3-dimethoxyquinoxaline (Preparation 1, 235 mg, 0.67 mmol) was added. The mixture was allowed to warm to -20° C. over 1 hour and saturated aqueous ammonium chloride (20 mL) was added. The mixure was diluted with water (100 mL) and extracted with ethyl acetate (2×100 mL). The extracts were washed with water, dried (MgSO4) and concentrated under reduced pressure. The residue was purified by flash chromatography eluting with dichloromethane, then ethyl acetate then finally ethyl acetate:methanol:triethylamine (100:3:1) to give 6,7-dichloro-2,3-dimethoxy-5-{4-[3-(4-morpholinyl)propyl]pyrazol-1-ylmethyl}quinoxaline (278 mg, 89%) as a colourless gum.

reactant | 4-[3-(4-Morpholinyl)propyl]pyrazole dihydrochloride | 1 mmol, 268 mg | Cl.Cl.N1(CCOCC1)CCCC=1C=NNC1
reactant | sodium hydride | 4 mmol, 120 mg | [H-].[Na+]
reactant | 5-bromomethyl-6,7-dichloro-2,3-dimethoxyquinoxaline | 0.67 mmol, 235 mg | BrCC1=C2N=C(C(=NC2=CC(=C1Cl)Cl)OC)OC | C11H9BrCl2N2O2
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
solvent | water | 100 mL | O | H2O
product | 6,7-dichloro-2,3-dimethoxy-5-{4-[3-(4-morpholinyl)propyl]pyrazol-1-ylmethyl}quinoxaline | 278 mg, 89% | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)CN1N=CC(=C1)CCCN1CCOCC1 | C21H25Cl2N5O3
